US04918213
0.27 g (1.4 mmol) of 4-trifluoromethyloctanol was dissolved in 5 ml of pyridine and cooled with ice, and 0.27 g (1.4 mmol) of p-toluenesulfonyl chloride was added thereto under stirring, followed by reaction at 15°-20° C. for 3 hours. After the reaction, the mixture was acidified with 2N-hydrochloric acid and extracted with diethyl ether. The resultant ether layer was dired on anhydrous sodium sulfate, followed by distilling-off of the solvent to obtain 4-trifluoromethyloctyl p-toluenesulfonate. Then, 0.4 g (1.1 mmol) of the 4-trifluoromethyloctyl p-toluenesulfonate was dissolved in 1 ml of ethanol and then added to a preliminarily prepared solution of 48 mg (1.1 mmol) of sodium hydroxide and 0.23 g (1.1 mmol) of p-hydroxyphenyl benzyl ether in 1 ml of ethanol. The mixture was heated to 85°-90° C. for 5 hours of reaction and then cooled by standing. The reaction mixture was poured into 20 ml of 2N-hydrochloric acid and extracted with diethyl ether. The resultant ether layer was dried on anhydrous sodium sulfate and purified by silica gel column chromatography (eluent: benzene) to obtain 0.30 g (yield: 69%) of p-benzyloxy(4-trifluoromethyloctyloxy)phenyl.

reactant | 4-trifluoromethyloctanol | 1.4 mmol, 0.27 g | FC(C(CCCO)CCCC)(F)F | C9H17F3O
reactant | p-toluenesulfonyl chloride | 1.4 mmol, 0.27 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 4-trifluoromethyloctyl p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OCCCC(CCCC)C(F)(F)F)C | C16H23F3O3S
